US06559145B2
Ethyl 3-(2-fluoro-5-iodophenyl)-2-(hydroxyimino)-3-oxopropanoate [AT.2, Y=Iodo]
Employing the method utilized by Fray (Fray, J. M., Cooper, K., Parry, M. J., Richardson, K., Steele, J. J. Med. Chem. 1995, 38, 3514-3523), a solution of sodium nitrite (0.52 g) in water (3 mL) is added dropwise to a solution of ethyl 3-(2-fluoro-5-iodophenyl)-3-oxopropanoate (Preparation 15, 2.4 g) in glacial acetic acid (3 mL) at 5° C. with stirring. After 1.5 h, the mixture is poured into saturated aqueous sodium chloride and extracted with dichloromethane. The organic extracts are washed with saturated aqueous sodium chloride and saturated aqueous sodium bicarbonate, dried (Na2SO4), and concentrated in vacuo to give a sticky oil which is flash chromatographed on silica gel (230-400 mesh, 10 g) eluting with 20% ethyl acetate and hexane to give, after concentration of product fractions, 1.31 g of the title compound as a yellow liquid (˜3/1 ratio of oxime isomers). Physical characteristics: MS (ESI+) m/z 366 (M+H)+.

reactant | sodium nitrite | 0.52 g | N(=O)[O-].[Na+]
reactant | ethyl 3-(2-fluoro-5-iodophenyl)-3-oxopropanoate | 2.4 g | FC1=C(C=C(C=C1)I)C(CC(=O)OCC)=O | C11H10FIO3
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 3 mL | O | H2O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | Ethyl 3-(2-fluoro-5-iodophenyl)-2-(hydroxyimino)-3-oxopropanoate | 1.31 g | FC1=C(C=C(C=C1)I)C(C(C(=O)OCC)=NO)=O | C11H9FINO4
